US06066766
0.5 mol of a 25% strength by weight 4-n-pentoxyphenylmagnesium chloride/THF solution is added dropwise in the course of 30 minutes to a boiling solution of 0.5 mol of 1,4-bromochlorobenzene and 0.0025 g of Pd(dppf)Cl2 *CH2Cl2 in 100 ml of THF. After stirring under reflux for four hours, the mixture is hydrolyzed with dilute sulfuric acid (conversion 99%, selectivitity 97%). The organic phase is freed from the solvent by distillation. The 4-chloro-4'-pentoxybiphenyl thus obtained is recrystallized from ethanol.

reactant | 4-n-pentoxyphenylmagnesium chloride THF | C(CCCC)OC1=CC=C(C=C1)[Mg]Cl.C1CCOC1
reactant | 1,4-bromochlorobenzene | 0.5 mol | C1=CC(=CC=C1Cl)Br | C6H4BrCl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.0025 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-chloro-4'-pentoxybiphenyl | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCC | C17H19ClO
